US04178253
A mixture of 11.7 parts of 3-mercapto-5-(4-tert.-butylphenyl)-1,2,4-triazole, 12.5 parts of 1-bromododecane and 100 parts by volume of ethyl alcohol was heated at reflux temperature for four hours. After cooling to 20° C., a four percent weight/volume aqueous sodium hydroxide solution was added followed by 100 parts by volume of water. The precipitated product was filtered and dried yielding 59 percent of 3-(n-dodecylthio)-5-(4-tert.butylphenyl)-1,2,4-triazole which had a melting point of 87°-92° and the following elemental analysis:

reactant | 3-mercapto-5-(4-tert.-butylphenyl)-1,2,4-triazole | SC1=NNC(=N1)C1=CC=C(C=C1)C(C)(C)C | C12H15N3S
reactant | 1-bromododecane | BrCCCCCCCCCCCC | C12H25Br
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(n-dodecylthio)-5-(4-tert.butylphenyl)-1,2,4-triazole | 59 percent | C(CCCCCCCCCCC)SC1=NNC(=N1)C1=CC=C(C=C1)C(C)(C)C | C24H39N3S
